US07253198B2
To a solution of 3-bromo-5-nitro-benzoic acid methyl ester (D11) (12.1 g, 46.5 mmol, 1 equiv) in MeOH (200 ml) was added SnCl2 (44 g, 233 mmol, 5 equiv). The resulting mixture was stirred at reflux for 4 h, cooled to room temperature and concentrated in vacuo. The residue was partitioned between ice-cold AcOEt and H2O. The aqueous phase was basified with 2N aqueous NaOH solution until a white precipitate appeared, then slowly with 12.5N aqueous NaOH solution until this precipitate disappeared. The temperature was kept below 10° C. during this addition. The two layers were separated and the aqueous phase extracted with AcOEt. The combined organic layers were washed with brine, dried over MgSO4 and concentrated in vacuo to give 3-amino-5-bromo-benzoic acid methyl ester (D12) (9.9 g, 93%) as a brown solid.

reactant | 3-bromo-5-nitro-benzoic acid methyl ester | 46.5 mmol, 12.1 g, 1 equiv | COC(C1=CC(=CC(=C1)[N+](=O)[O-])Br)=O | C8H6BrNO4
reactant | SnCl2 | 233 mmol, 44 g, 5 equiv | Cl[Sn]Cl
solvent | MeOH | 200 ml | CO | CH4O
product | 3-amino-5-bromo-benzoic acid methyl ester | 9.9 g, 93% | COC(C1=CC(=CC(=C1)Br)N)=O | C8H8BrNO2
